US07906528B2
A mixture of 2,6-dimethylphenylboronic acid (6.5 g, 43.5 mmol), 2-chloro-4-methyl-5-nitro-pyridine (5 g, 28.9 mmol), Pd(PPh3)4, (1.5 g, 1.5 mmol), Na2CO3 (4.6 g, 43.5 mm water (20 mL), and EtOH (5 mL) is heated in a sealed tube under nitrogen at 110° C. for 18 hours. The mixture is cooled to room temperature, diluted with EtOAc (150 mL), washed with saturated solution of Na2CO3 (50 mL 3×), water (50 mL) and brine (50 mL), dried (Na2SO4), and concentrated under reduced pressure. The residue is purified by chromatography on silica gel (Hexane/EtOAc, 6:1) to afford 2-(2,6-dimethyl-phenyl)-4-methyl-5-nitro-pyridine as a colorless oil.

reactant | 2,6-dimethylphenylboronic acid | 43.5 mmol, 6.5 g | CC1=C(C(=CC=C1)C)B(O)O | C8H11BO2
reactant | 2-chloro-4-methyl-5-nitro-pyridine | 28.9 mmol, 5 g | ClC1=NC=C(C(=C1)C)[N+](=O)[O-] | C6H5ClN2O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 20 mL | O | H2O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 1.5 mmol, 1.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOH | 5 mL | CCO | C2H6O
product | 2-(2,6-dimethyl-phenyl)-4-methyl-5-nitro-pyridine | CC1=C(C(=CC=C1)C)C1=NC=C(C(=C1)C)[N+](=O)[O-] | C14H14N2O2
